US07351719B2
189) (E)-N-[3-chloro-4-(4-methyl-piperidin-1-ylmethyl)-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide
Prepared analogously to Example 143 starting from (E)-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylic acid (Z37b) and 3-chloro-4-(4-methyl-piperidin-1-ylmethyl)-phenylamine (Z36b). The crude product was purified by column chromatography (Alox, neutral, act. II-III, petroleum ether/EtOAc 3:1).

reactant | (E)-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylic acid | ClC1=C(C=CC(=C1)C(F)(F)F)/C=C/C(=O)O | C10H6ClF3O2
reactant | 3-chloro-4-(4-methyl-piperidin-1-ylmethyl)-phenylamine | ClC=1C=C(C=CC1CN1CCC(CC1)C)N | C13H19ClN2
product | (E)-N-[3-chloro-4-(4-methyl-piperidin-1-ylmethyl)-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide | ClC=1C=C(C=CC1CN1CCC(CC1)C)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C23H23Cl2F3N2O
